US05424268
4-(4-Hydroxybutoxy)benzoic acid (prepared by the method of Whitcombe et al., Polymer Comm., 32, 380-381 (1991)) was esterified with methacrylic acid by the method described in Portugall et al., Makromol. Chem 183, 2311 (1982) to give an oil which was precipitated into water, filtered, dried and recrystallized from 2-propanol to give 4-(4-methacryloxybutoxy)benzoic acid, melting point 103°-106° C. acid was converted to the desired acid chloride by the method described in the aforementioned Portugall et al. paper; the acid chloride was obtained as a clear, colorless oil, which was recrystallized from dry hexanes to give the final product (84% yield) as fluffy white needles, melting point 30°-31° C.

reactant | 4-(4-Hydroxybutoxy)benzoic acid | OCCCCOC1=CC=C(C(=O)O)C=C1 | C11H14O4
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
product | 4-(4-methacryloxybutoxy)benzoic acid | C(C(=C)C)(=O)OCCCCOC1=CC=C(C(=O)O)C=C1 | C15H18O5
